US08334301B2
N-methyl-1-(1-{[(4-methylphenyl)sulfonyl]methyl}-2-phenyl-1H-imidazol-4-yl)methanamine dihydrochloride
To a solution of N-methyl-1-(1-{[(4-methylphenyl)thio]methyl}-2-phenyl-1H-imidazol-4-yl)methanamine dihydrochloride (250 mg) in water (10 mL) and acetone (10 mL) was added dropwise a solution of oxone (700 mg) in water (20 mL), and the mixture was stirred at room temperature for 3 hr. Sodium thiosulfate pentahydrate (783 mg) was added to the reaction mixture and the mixture was stirred for 24 hr. A saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with a mixed solution of ethyl acetate-tetrahydrofuran (1:1). The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent:ethyl acetate-methanol=1:0→7:3) and dissolved in methanol (5 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added, and the mixture was concentrated under reduced pressure. The residue was crystallized from tetrahydrofuran to give the title compound as colorless crystals (yield 55 mg, yield 20%).

reactant | N-methyl-1-(1-{[(4-methylphenyl)thio]methyl}-2-phenyl-1H-imidazol-4-yl)methanamine dihydrochloride | 250 mg | Cl.Cl.CNCC=1N=C(N(C1)CSC1=CC=C(C=C1)C)C1=CC=CC=C1
reactant | oxone | 700 mg | OOS(=O)[O-].[K+]
reactant | Sodium thiosulfate pentahydrate | 783 mg | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 10 mL | O | H2O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | 20 mL | O | H2O
product | N-methyl-1-(1-{[(4-methylphenyl)sulfonyl]methyl}-2-phenyl-1H-imidazol-4-yl)methanamine dihydrochloride | yield 55 mg, yield 20% | Cl.Cl.CNCC=1N=C(N(C1)CS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | InChI=1S/C19H21N3O2S.2ClH/c1-15-8-10-18(11-9-15)25(23,24)14-22-13-17(12-20-2)21-19(22)16-6-4-3-5-7-16;;/h3-11,13,20H,12,14H2,1-2H3;2*1H
